US04996206
To a mixture of 4.86 g of 2,3-diiodo-4-hydroxy-6-methylpyrrolo[2,3-d]pyrimidine in 100 mL of glacial acetic acid and 25 mL of water are added 1.3 g (20 mmol) of zinc powder. The mixture is stirred at ambient temperature for 18 hours, diluted with 500 mL of water, and cooled. The solid is collected through filtration and dried under vacuum over phosphorus pentoxide to yield 3-iodo-4-hydroxy-6-methylpyrrolo[2,3-d]pyrimidine which can be purified further by chromatography over silica eluting with 2.5% methanol in methylene chloride.

reactant | 2,3-diiodo-4-hydroxy-6-methylpyrrolo[2,3-d]pyrimidine | 4.86 g | IC=1N(C(=C2C(N1)=NC(=C2)C)O)I | C7H5I2N3O
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
solvent | water | 25 mL | O | H2O
solvent | water | 500 mL | O | H2O
catalyst | zinc | 20 mmol, 1.3 g | [Zn] | Zn
product | 3-iodo-4-hydroxy-6-methylpyrrolo[2,3-d]pyrimidine | IN1C=NC=2C(=C1O)C=C(N2)C | C7H6IN3O
